US20010044538A1
4-Fluorophenylacetonitrile (11.13 g, 82 mmol) was dissolved in absolute ethanol (100 ml) and sodium ethoxide (21 wt % in EtOH) (46 ml, 123 mmol) was added in one portion. The resulting brown solution was stirred for 10 min. at room temperature. A solution of 2-chloropyridine-4-carboxylic acid methyl ester (14.1 g, 82 mmol) in absolute ethanol (100 ml) was then added to the reaction over 3-5 min. The reaction mixture was then refluxed for 2 h during which time the color turned to dark brown. The reaction mixture was concentrated in vacuo and water (100 ml) was added to the resulting residue. The pH of the reaction mixture was adjusted to 3 using 10% hydrochloric acid. The product was extracted with ethyl acetate and the combined ethyl acetate extracts were dried over sodium sulfate, filtered and concentrated in vacuo to yield 1-(2-chloropyridin-4-yl)-2-cyano-2-(4-fluorophenyl)ethanone as a dark brown solid which was used without further purification (22.0 g).

reactant | 4-Fluorophenylacetonitrile | 82 mmol, 11.13 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | sodium ethoxide | 123 mmol, 46 ml | [O-]CC.[Na+]
reactant | 2-chloropyridine-4-carboxylic acid methyl ester | 82 mmol, 14.1 g | COC(=O)C1=CC(=NC=C1)Cl | C7H6ClNO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(2-chloropyridin-4-yl)-2-cyano-2-(4-fluorophenyl)ethanone | ClC1=NC=CC(=C1)C(C(C1=CC=C(C=C1)F)C#N)=O | C14H8ClFN2O
